US08729274B2
A dried 2 L 3-neck flask was fitted with a card-ice condenser, sealed under nitrogen and cooled to −78° C. Ammonia gas was condensed into the flask from a cylinder until approximately required volume was present (˜300 mL). Commercial sodium amide (800 mmol, 31.2 g) was added to the ammonia at −78° C. and after stirring for 10 minutes 3-(2,6-dichlorophenyl)propanenitrile (200 mmol, 40 g) was added over a 5 minute period. The mixture was allowed to warm such that the resultant mixture was stirred at reflux for 4 h before being neutralised with solid ammonium nitrate (800 mmol, 64.0 g) and allowed to stand overnight under a flow of nitrogen. The ammonia was evaporated and water was added to the solid residue and the products were extracted with dichloromethane (×3). The combined organics were washed with dilute hydrochloric acid (5%), followed by water. The organics were dried with sodium sulfate and concentrated to afford crude 3-chloro-1,2-dihydrocyclobutabenzene-1-carbonitrile as a brown residue (98% yield, 32 g).

reactant | Ammonia | N | H3N
reactant | sodium amide | 800 mmol, 31.2 g | [NH2-].[Na+]
reactant | 3-(2,6-dichlorophenyl)propanenitrile | 200 mmol, 40 g | ClC1=C(C(=CC=C1)Cl)CCC#N | C9H7Cl2N
reactant | ammonium nitrate | 800 mmol, 64.0 g | [N+](=O)([O-])[O-].[NH4+]
product | 3-chloro-1,2-dihydrocyclobutabenzene-1-carbonitrile | ClC1=CC=CC2=C1CC2C#N | C9H6ClN
